US06150373
A solution of 220 mg (0.64 mmol) of 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidine-2(1H)-one in 10 ml of dichloromethane was treated with 440 mg (1.28 mmol) of 3-chloroperbenzoic acid (50% w/w in water) and stirred for 18 hours. 0.2 ml of dimethyl sulfoxide was added. After a further 15 minutes 15 ml of saturated aqueous sodium bicarbonate solution were added. The phases were separated and then the organic phase was washed with 30 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated to give 250 mg (100%) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid.

reactant | 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydropyrimido[4,5-d]pyrimidine-2(1H)-one | 0.64 mmol, 220 mg | ClC1=C(C(=CC=C1)Cl)N1C(NC2=NC(=NC=C2C1)SC)=O | C13H10Cl2N4OS
reactant | 3-chloroperbenzoic acid | 1.28 mmol, 440 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dimethyl sulfoxide | 0.2 ml | CS(=O)C | C2H6OS
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 250 mg, 100% | ClC1=C(C(=CC=C1)Cl)N1C(NC2=NC(=NC=C2C1)S(=O)(=O)C)=O | C13H10Cl2N4O3S
